US09382188B2
step 4) tert-butyl 2′-fluoro-5′-methoxy-2-(3-methoxy-3-methylbutyl)biphenyl-4-yl carbonate
To a solution of tert-butyl 2′-fluoro-5′-methoxy-2-(3-methoxy-3-methylbut-1-yn-1-yl)biphenyl-4-yl carbonate (241 mg) in ethyl acetate (5 mL) was added 10% palladium-carbon (48 mg) and, under a hydrogen atmosphere, the mixture was stirred at room temperature for 1 hr. The reaction mixture was filtered, the solvent of the filtrate was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (203 mg) as a colorless oil.

reactant | tert-butyl 2′-fluoro-5′-methoxy-2-(3-methoxy-3-methylbut-1-yn-1-yl)biphenyl-4-yl carbonate | 241 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C#CC(C)(C)OC)=O | C24H27FO5
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 48 mg | [C].[Pd]
product | tert-butyl 2′-fluoro-5′-methoxy-2-(3-methoxy-3-methylbutyl)biphenyl-4-yl carbonate | 203 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CCC(C)(C)OC)=O | C24H31FO5
